US09085586B2
A 1 L pressure tank reactor (60 atm) containing a solution of 3-hydroxybenzoic acid (30 g, 217.20 mmol, 1.00 equiv), Raney Ni (5 g) and sodium hydroxide (6.4 g, 160.00 mmol, 0.74 equiv) in water (500 mL) was introduced H2 (gas, 60 atm) and the resulting solution was stirred overnight at 150° C. After completion of the reaction, the reaction temperature was cooled down to room temperature and the solids were filtered out by filtration. The resulting solution was neutralized with 12 M HCl, extracted with 6×100 mL of tetrahydrofuran. The combined organic layers were dried over sodium sulfate and concentrated under vacuum to provide 3-hydroxycyclohexane-1-carboxylic acid (11 g, crude) as a white solid.

reactant | 3-hydroxybenzoic acid | 217.20 mmol, 30 g, 1.00 equiv | OC=1C=C(C(=O)O)C=CC1 | C7H6O3
reactant | sodium hydroxide | 160.00 mmol, 6.4 g, 0.74 equiv | [OH-].[Na+]
solvent | water | 500 mL | O | H2O
catalyst | Ni | 5 g | [Ni] | Ni
product | 3-hydroxycyclohexane-1-carboxylic acid | 11 g | OC1CC(CCC1)C(=O)O | C7H12O3
